US07820654B2
1-(2,6-Diphenyl-pyrimidin-4-yl)-piperidin-4-ol was prepared from compound 1-(2-chloro-6-phenyl-pyrimidin-4-yl)-piperidin-4-ol and phenyl boronic acid by a procedure analogous to that disclosed in Examples 39 and 95, as described above. Yield: 61%.

reactant | 1-(2-chloro-6-phenyl-pyrimidin-4-yl)-piperidin-4-ol | ClC1=NC(=CC(=N1)N1CCC(CC1)O)C1=CC=CC=C1 | C15H16ClN3O
reactant | phenyl boronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 1-(2,6-Diphenyl-pyrimidin-4-yl)-piperidin-4-ol | Yield: 61% | C1(=CC=CC=C1)C1=NC(=CC(=N1)N1CCC(CC1)O)C1=CC=CC=C1 | C21H21N3O
